US07547699B2
To a solution of 0.200 g (5R,8aR)-5-methyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene in 2 ml dichloromethane was added 0.200 di tert.butyldicarbonate and the mixture was kept at room temperature for 1 h. The solvent was evaporated and the residue was purified by chromatography on silica gel with heptane:ethyl acetate=2:1. to yield 0.22 g (5R,8aR)-5-methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester as a colorless solid (MS: 332.4 (M+H+))

reactant | (5R,8aR)-5-methyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene | 0.200 g | C[C@H]1N2C=3N=C4C(=CC3C[C@@H]2CNC1)COC4 | C13H17N3O
reactant | di tert.butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (5R,8aR)-5-methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester | 0.22 g | C(C)(C)(C)OC(=O)N1C[C@H](N2C=3N=C4C(=CC3C[C@@H]2C1)COC4)C | C18H25N3O3
